US06677368B2
3-Piperidin-1-yl-1-(5,6,7,8-tetrahydro-1H-pyrrolo[3,2-b]azepin-4-yl)-propan-1-one (225 mg, 0.8 mmol) was formylated with POCl3 (91 μL, 1.2 eq.) and DMF(1 mL) using standard Vilsmierer condition to give 96 mg of 4-(3-piperidin-1-yl-propioyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde as a light yellow solid.

reactant | 3-Piperidin-1-yl-1-(5,6,7,8-tetrahydro-1H-pyrrolo[3,2-b]azepin-4-yl)-propan-1-one | 0.8 mmol, 225 mg | N1(CCCCC1)CCC(=O)N1C2=C(CCCC1)NC=C2 | C16H25N3O
reactant | POCl3 | 91 μL, 1.2 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(3-piperidin-1-yl-propioyl)-1,4,5,6,7,8-hexahydro-pyrrolo[3,2-b]azepine-2-carbaldehyde | 96 mg | N1(CCCCC1)CCC(=O)N1C2=C(CCCC1)NC(=C2)C=O | C17H25N3O2
